US06054448
iii) Benzyl cis-2-methoxycarbonyl-2-(3-methoxycarbonylcyclobutyl)-3-naphthylpropanoate
To a stirred suspension of potassium t-butoxide (0.44 g, 3.93 mmol) in dry tetrahydrofuran (20 ml) cooled to 0° C. under a nitrogen atmosphere was added dropwise a solution of benzyl methyl cis-3-methoxycarbonylcyclobutylmalonate (1.25 g, 3.9 mmol) in dry tetrahydrofuran (20 ml) followed by dropwise addition of 1-(bromomethyl)naphthalene (2.58 g, 11.7 mmol) in dry toluene (15 ml). Stirring was continued at 0° C. for 4 hours, aqueous hydrochloric acid (2M, 15 ml) was then added and the mixture extracted with diethyl ether. The organic phase was dried, filtered and evaporated to an oil (2.5 g). The oil was dissolved in dichloromethane and filtered through a pad of flash silica, the solvent was removed and the resulting oil (2.0 g) purified by chromatography on silica using a Biotage Flash 40 eluting with dichloromethane to give the title compound as a colourless oil.

reactant | potassium t-butoxide | 3.93 mmol, 0.44 g | CC(C)([O-])C.[K+]
reactant | benzyl methyl cis-3-methoxycarbonylcyclobutylmalonate | 3.9 mmol, 1.25 g | COC(=O)[C@H]1C[C@H](C1)C(C(=O)OCC1=CC=CC=C1)C(=O)OC | C17H20O6
reactant | 1-(bromomethyl)naphthalene | 11.7 mmol, 2.58 g | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
reactant | hydrochloric acid | 2M, 15 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | Benzyl cis-2-methoxycarbonyl-2-(3-methoxycarbonylcyclobutyl)-3-naphthylpropanoate | COC(=O)C(C(=O)OCC1=CC=CC=C1)(CC1=CC=CC2=CC=CC=C12)[C@@H]1C[C@@H](C1)C(=O)OC | C28H28O6
